US05693636
a)3-[N-(t-butyloxycarbonyl)aminomethyl]benzylamine
Di-tert-butyl dicarbonate (8.29 g, 38 mmol) was added to a solution of m-xylylenediamine (15 mL, 114 mmol) in CHCl3 (30 mL) at room temperature. The reaction was stirred at room temperature for 18 h, diluted with Et2O and washed with 5% aqueous Na2CO3. The organic phase was washed with 1N HCl and the aqueous phase was washed with ether. The pH of the aqueous phase was adjusted to 10, extracted with ether, dried and evaporated to yield the title compound as colorless oil (4.0 g, 45%).

reactant | Di-tert-butyl dicarbonate | 38 mmol, 8.29 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | m-xylylenediamine | 114 mmol, 15 mL | C1(=CC(=CC=C1)CN)CN | C8H12N2
solvent | CHCl3 | 30 mL | C(Cl)(Cl)Cl | CHCl3
solvent | Et2O | CCOCC | C4H10O
product | 3-[N-(t-butyloxycarbonyl)aminomethyl]benzylamine | 4.0 g, 45% | C(C)(C)(C)OC(=O)NCC=1C=C(CN)C=CC1 | C13H20N2O2
